US05808062
3-[Cyclohexyl(phenylthio)methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), cyclohexane-carboxaldehyde (0.707 mL, 5.84 mmol), thiophenol (1.40 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 87°-90° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.46 (m, 5 H), 1.61 (m, 4 H), 2.15 (m, 1 H), 2.31 (d, 1 H), 4.26 (d, 1 H), 6.65 (s, 1 H), 7.16 (t, 1 H), 7.27 (t, 2 H), 7.37 (d, 2 H), 7.52 (m, 3 H), 7.74 (m, 2 H), 11.80 (bs, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | cyclohexane-carboxaldehyde | 5.84 mmol, 0.707 mL | C1(CCCCC1)C=O | C7H12O
reactant | thiophenol | 13.8 mmol, 1.40 mL | C1(=CC=CC=C1)S | C6H6S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[Cyclohexyl(phenylthio)methyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)C(C=1C(OC(=CC1O)C1=CC=CC=C1)=O)SC1=CC=CC=C1 | C24H24O3S
